US06784186B1
Preparation of 3,6-bis(t-butyldirnethylsiloxy)-7,8-didehydro-4,5-epoxy-17-(N-aminoiminomethylaminopropyl)-morphinan
Anhydrous dimethylformamide (2 ml) was added to a mixture of 3,6-bis(t-butyldimethylsiloxy)-7,8-didehydro-4,5-epoxy-17-aminopropylmorphinan (0.2 g, 0.359 mmol), diisopropylethylamine (0.07 ml, 0.39 mmol), and 1H-pyrazole-1-carboxamidine hydrochloride (0.06g, 0.39 mmol) and the reaction mixture was stirred overnight at room temperature under nitrogen. The reaction mixture was evaporated to dryness under reduced pressure, and the crude product was chromatographed on silica gel (yield=0.155 g, 72%).

reactant | 3,6-bis(t-butyldimethylsiloxy)-7,8-didehydro-4,5-epoxy-17-aminopropylmorphinan | 0.359 mmol, 0.2 g | O([Si](C)(C)C(C)(C)C)C=1C=CC=2C[C@@H]3[C@@H]4C=CC(C5[C@@]4(C2C1O5)CCN3CCCN)O[Si](C)(C)C(C)(C)C | C31H52N2O3Si2
reactant | diisopropylethylamine | 0.39 mmol, 0.07 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.39 mmol, 0.06g | Cl.N1(N=CC=C1)C(=N)N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3,6-bis(t-butyldirnethylsiloxy)-7,8-didehydro-4,5-epoxy-17-(N-aminoiminomethylaminopropyl)-morphinan | O([Si](C)(C)C(C)(C)C)C=1C=CC=2C[C@@H]3[C@@H]4C=CC(C5[C@@]4(C2C1O5)CCN3CCCNC=NN)O[Si](C)(C)C(C)(C)C | C32H54N4O3Si2
